US05324711
Preparation of 6-[(2-chloro-α,α,α,6-tetrafluoro-p-tolyl)oxy]-α-methyl-1H-benzotriazole-1-acetic acid compound with isopropylamine (1:1)
Isopropylamine (0.5 g, 0.0085 mole) is added to a solution of 6-[(2-chloro-α,α,α,6-tetrafluoro-p-tolyl)oxy]-α-methyl-1H-benzotriazole-1-acetic acid (2.0 g, 0.005 mole) in methylene chloride and the resultant solution is concentrated in vacuo to afford a gum which is dissolved in toluene. The toluene solution is concentrated to afford the title compound as a white solid, mp 103.5°-105.5°, identified by elemental and NMR analyses.

reactant | Isopropylamine | 0.0085 mole, 0.5 g | C(C)(C)N | C3H9N
reactant | 6-[(2-chloro-α,α,α,6-tetrafluoro-p-tolyl)oxy]-α-methyl-1H-benzotriazole-1-acetic acid | 0.005 mole, 2.0 g | ClC1=C(C(=CC(=C1)OC=1C=CC2=C(N(N=N2)C(C(=O)O)C)C1)F)C(F)(F)F | C16H10ClF4N3O3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 6-[(2-chloro-α,α,α,6-tetrafluoro-p-tolyl)oxy]-α-methyl-1H-benzotriazole-1-acetic acid compound with isopropylamine | C(C)(C)N.ClC1=C(C(=CC(=C1)OC=1C=CC2=C(N(N=N2)C(C(=O)O)C)C1)F)C(F)(F)F | InChI=1S/C16H10ClF4N3O3.C3H9N/c1-7(15(25)26)24-13-6-8(2-3-12(13)22-23-24)27-9-4-10(17)14(11(18)5-9)16(19,20)21;1-3(2)4/h2-7H,1H3,(H,25,26);3H,4H2,1-2H3
